US04797399
A mixture of 5-chloro-3-[(4-methyleneamino-1-piperazinyl)carbonylmethyl]-2-benzothiazolinone (5.09 g), sodium borohydride (284 mg), tetrahydrofuran (80 ml), and ethanol (70 ml) was stirred for 3 hours at room temperature. The reaction mixture was concentrated under reduced pressure and the residue obtained was purified by column chromatography on silica gel eluting with a mixture of chloroform and methanol (20:1). The fractions containing the desired compoundwere combined and concentrated under reduced pressure. The white residue was dissolved in chloroform (5 ml), and 20% solution of hydrogen chloride in ethanol (1 ml) was added to the above solution. The white precipitates were filtered and recrystallized from a mixture of ethanol (10 ml) and water (2 ml) to give colorless crystals of 5-chloro-3-[(4-methylamino-1-piperazinyl)carbonylmethyl]-2-benzothiazolinone hydrochloride (0.5 g).

reactant | 5-chloro-3-[(4-methyleneamino-1-piperazinyl)carbonylmethyl]-2-benzothiazolinone | 5.09 g | ClC=1C=CC2=C(N(C(S2)=O)CC(=O)N2CCN(CC2)N=C)C1 | C14H15ClN4O2S
reactant | sodium borohydride | 284 mg | [BH4-].[Na+]
reactant | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
solvent | ethanol | 70 ml | C(C)O | C2H6O
product | 5-chloro-3-[(4-methylamino-1-piperazinyl)carbonylmethyl]-2-benzothiazolinone hydrochloride | 0.5 g | Cl.ClC=1C=CC2=C(N(C(S2)=O)CC(=O)N2CCN(CC2)NC)C1 | InChI=1S/C14H17ClN4O2S.ClH/c1-16-18-6-4-17(5-7-18)13(20)9-19-11-8-10(15)2-3-12(11)22-14(19)21;/h2-3,8,16H,4-7,9H2,1H3;1H
